US06355648B1
5′-(3-Nitrophenyl)-spiro[cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime).
Prepared from 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime) (1.0 g, 2.6 mmol) and 3-Nitrophenyl boronic acid (0.86 g, 5.2 mmol) according to Example 45 procedure A. Purification by flash silica gel chromatography (eluant: 10:0.5 hexane:ethyl acetate) afforded the desired compound (0.60 g, 1.4 mmol, 55%) as a viscous oil. 1H NMR (500 MHz, DMSO-d6) δ 1.42-1.82 (8H, m) 2.02-2.04 (2H, q) 5.01 (2H, s) 6.88 (1H, d) 7.28-7.71 (8H, m) 8.08-8.13 (2H, m) 8.38 (1H, d) 9.69 (1H, s); MS (ESI(−ve)) m/z 426 (M−H)−.

reactant | 5′-bromospiro{cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime) | 2.6 mmol, 1.0 g | C(C1=CC=CC=C1)ON=C1NC2=CC=C(C=C2C12CCCCC2)Br | C20H21BrN2O
reactant | 3-Nitrophenyl boronic acid | 5.2 mmol, 0.86 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 5′-(3-Nitrophenyl)-spiro[cyclohexane-1,3′-[3H]indol}-2′(1′H)-one 2′(O-benzyloxime) | 1.4 mmol, 0.60 g, 55% | C(C1=CC=CC=C1)ON=C1NC2=CC=C(C=C2C12CCCCC2)C2=CC(=CC=C2)[N+](=O)[O-] | C26H25N3O3
